US08735440B2
Step 2. Synthesis of 1-(3-bromo-6-methoxy-9H-carbazol-9-yl)-3-(phenylamino)propan-2-ol (P7C3-S159)
NaH (0.0023 g of 60% suspension (in oil), 0.093 mmol) was added to a solution of 3-bromo-6-methoxy-9H-carbazole (0.014 g, 0.052 mmol) in anhydrous THF (0.1 mL) at 0° C. and stirred for 30 min. A solution of N-(oxiran-2-ylmethyl)aniline (0.0093 g, 0.062 mmol) in anhydrous THF (0.1 mL) was added dropwise to the reaction mixture. The reaction was warmed to room temperature and stirred for 48 h. The reaction was quenched with saturated aqueous NH4Cl and extracted with EtOAc. The combined organics were concentrated and purified by chromatography (SiO2, 0-30% EtOAc/Hexane) to afford the title compound (0.007 g, 25%).

reactant | NaH | 0.093 mmol, 0.0023 g | [H-].[Na+]
reactant | 3-bromo-6-methoxy-9H-carbazole | 0.052 mmol, 0.014 g | BrC=1C=CC=2NC3=CC=C(C=C3C2C1)OC | C13H10BrNO
reactant | N-(oxiran-2-ylmethyl)aniline | 0.062 mmol, 0.0093 g | O1C(C1)CNC1=CC=CC=C1 | C9H11NO
solvent | THF | 0.1 mL | C1CCOC1 | C4H8O
solvent | THF | 0.1 mL | C1CCOC1 | C4H8O
product | 1-(3-bromo-6-methoxy-9H-carbazol-9-yl)-3-(phenylamino)propan-2-ol | 0.007 g, 25% | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)OC)CC(CNC1=CC=CC=C1)O | C22H21BrN2O2
